US06339135B1
(2) Synthesis of 1,2-bis(indenyl)ethane
1,4-bis(phenylsulfonyl)butane (16.9 g, 50.0 mmol) obtained in the above-mentioned (1) was dissolved in tetrahydrofuran (500 ml). After cooling to 0° C., 128 ml (n-butyllithium: 205 mmol) of a hexane solution having an n-butyllithium concentration of 1.6 mol/l was added. After 1 hour, a tetrahydrofuran solution (500 mol) of o-xylene dichloride (17.9 g, 102 mmol) was added to the solution which was being vigorously stirred, followed by stirring at room temperature for 2 hours. Next, the solution was cooled to −78° C., and a tetrahydrofuran solution (250 ml) of lithiumdiisopropylamide prepared from a hexane solution (256 ml) having an n-butyllithium concentration of 1.6 mol/l and diisopropylamine (57.7 ml) was slowly added thereto. After 30 minutes, 5% hydrochloric acid (200 ml) was added at 0C. The solution was extracted with ethyl acetate, and the collected organic layer was dried over anhydrous magnesium sulfate. After concentration under reduced pressure, Soxhlet extraction using hexane was carried out to obtain a desired product. Its yield was 2.0 g, i.e., 15%.

reactant | n-butyllithium | C(CCC)[Li]
reactant | o-xylene dichloride | 102 mmol, 17.9 g | [Cl-].[Cl-].C=1(C(=CC=CC1)C)C
reactant | lithiumdiisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 57.7 ml | C(C)(C)NC(C)C | C6H15N
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 500 mol | O1CCCC1 | C4H8O
solvent | hexane | 256 ml | CCCCCC | C6H14
solvent | hexane | 205 mmol, 128 ml | CCCCCC | C6H14
product | 1,2-bis(indenyl)ethane | C1(C=CC2=CC=CC=C12)CCC1C=CC2=CC=CC=C12 | C20H18
